### PR TITLE
[Merged by Bors] - feat(FieldTheory): lemmas about trace and norm in finite fields

### PR DESCRIPTION
**Pull request by kckennylau**
---

Zulip: [#new members > How to formalize a finite field exercise?](https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/How.20to.20formalize.20a.20finite.20field.20exercise.3F/with/529553211)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/FieldTheory/Finite/Trace.lean [hunk 1]
```diff
@@ -29,4 +37,29 @@ theorem trace_to_zmod_nondegenerate (F : Type*) [Field F] [Finite F]
   by_contra! hf
   exact ha (htr hf)
 
+/-- An explicit formula for the trace map: `trace[L/K](x) = ∑ i < [L:K], x ^ ((#K) ^ i)`. -/
+theorem algebraMap_trace_eq_sum_pow (K L : Type*) [Field K] [Field L]
+    [Fintype K] [Finite L] [Algebra K L] (x : L) :
```
Comment (kbuzzard) [inline Mathlib/FieldTheory/Finite/Trace.lean]: This looks fine except why do we have `[Fintype K]` and `[Finite L]`? Surely in applications people will have either both fintypes or both finite?

Comment (kckennylau) [reply Mathlib/FieldTheory/Finite/Trace.lean]: It is true that these can be "weakened" to Finite, and I will do so, but I will also explain the context here:

The Fintype assumptions trickled all the way from the Frobenius alg hom `L ->_a[K] L` which is defined by taking `x` to `x ^ Fintype.card K`, and it will be `noncomputable` if we change `Fintype.card K` to `Nat.card K`.

What is your opinion on this? Where should we draw the line and refactor previous results to use `Finite` and `Nat.card` instead of `Fintype` and `Fintype.card`?

Comment (kckennylau) [reply Mathlib/FieldTheory/Finite/Trace.lean]: I have made these changes.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/FieldTheory/Finite/Trace.lean [hunk 2]
```diff
@@ -29,4 +39,31 @@ theorem trace_to_zmod_nondegenerate (F : Type*) [Field F] [Finite F]
   by_contra! hf
   exact ha (htr hf)
 
+/-- An explicit formula for the trace map: `trace[L/K](x) = ∑ i < [L:K], x ^ ((#K) ^ i)`. -/
+theorem algebraMap_trace_eq_sum_pow (K L : Type*) [Field K] [Field L]
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Finite/Trace.lean]: Can you remove `Finite K` in this and the following (it is automatic). Also, you can use a `variable (K L ...) ...` line.

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/FieldTheory/Finite/Trace.lean (hunk 2 above)
Comment (kckennylau) [reply Mathlib/FieldTheory/Finite/Trace.lean]: done
